US05654331
a) Methyl 2,6-dihydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate
3.1 g (10 mmol) of 2-(2'-bromoaceto)-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthone, 1.8 g (10 mmol) of methyl 2,4,6-trihydroxybenzoate, 1.4 g (10 mmol) of potassium carbonate and 100 ml of methyl ethyl ketone are introduced into a flask. The mixture is heated under reflux for 1 hour and evaporated to dryness. The residue is taken up with water and dichloromethane, and the organic phase is separated, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column, eluted with a mixture of dichloromethane and hexane (50:50). After evaporation of the solvents, 2.2 g (53%) of the expected product of melting point 169°-170° C. are collected.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthone | CC1(C=2C=CCC(C2C(CC1)(C)C)=O)C | C14H20O
reactant | methyl 2,4,6-trihydroxybenzoate | 10 mmol, 1.8 g | OC1=C(C(=O)OC)C(=CC(=C1)O)O | C8H8O5
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | Methyl 2,6-dihydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate | OC1=C(C(=O)OC)C(=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C24H28O6
